US08604211B2
Preparation of N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)-3-(tritylthio)propanamide (Compound 22)
Oxalyl chloride (380 μL, 4.3 mmol, 1.5 equiv) and N,N-dimethylformamide (11 μL, 0.14 mmol, 0.05 equiv) were sequentially added to a stirred suspension of 3-(tritylthio)propanoic acid (1.0 g, 2.9 mmol, 1.0 equiv) in toluene (10 mL) at 23° C. The resulting bubbling white suspension was stirred at 23° C. for 17 h. The reaction mixture was concentrated by rotary evaporation. A portion of the resulting product, 3-(tritylthio)propanoyl chloride (400 mg, 1.1 mmol, 1.1 equiv), was added to a stirred suspension of N-methyl-5-(pyridin-3-yl)-1,3,4-thiadiazol-2-amine (190 mg, 1.0 mmol, 1.0 equiv) and 4-dimethylaminopyridine (150 mg, 1.2 mmol, 1.2 equiv) in dichloromethane (3.0 mL) at 23° C. The resulting yellow solution was stirred at 23° C. for 15 h. The reaction mixture was diluted with a saturated solution of sodium bicarbonate (40 mL) and extracted with ethyl acetate (3×30 mL). The combined organic layers were dried (Na2SO4), gravity-filtered, and concentrated by rotary evaporation. The residue was purified by silica gel column chromatography (ethyl acetate) to afford the title compound as a white foam (450 mg, 87%): mp 60-75° C.; IR (KBr thin film) 3438 (w), 3024 (w), 2909 (w), 2742 (w), 2649 (w), 2565 (w), 1701 (s) cm−1; 1H NMR (300 MHz, CDCl3) δ 9.12 (d, J=2 Hz, 1H), 8.67 (dd, J=5, 2 Hz, 1H), 8.25 (dt, J=8, 2 Hz, 1H), 7.18-7.50 (m, 16H), 3.58 (s, 3H), 2.73 (t, J=7 Hz, 2H), 2.34 (t, J=7 Hz, 2H); ESIMS m/z 523 ([M+H]+).

reactant | Oxalyl chloride | 4.3 mmol, 380 μL, 1.5 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.14 mmol, 11 μL, 0.05 equiv | CN(C=O)C | C3H7NO
reactant | 3-(tritylthio)propanoic acid | 2.9 mmol, 1.0 g, 1.0 equiv | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCC(=O)O | C22H20O2S
reactant | 3-(tritylthio)propanoyl chloride | 1.1 mmol, 400 mg, 1.1 equiv | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCC(=O)Cl | C22H19ClOS
reactant | N-methyl-5-(pyridin-3-yl)-1,3,4-thiadiazol-2-amine | 1.0 mmol, 190 mg, 1.0 equiv | CNC=1SC(=NN1)C=1C=NC=CC1 | C8H8N4S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 1.2 mmol, 150 mg, 1.2 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
product | N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)-3-(tritylthio)propanamide | 450 mg, 87% | CN(C(CCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=1SC(=NN1)C=1C=NC=CC1 | C30H26N4OS2
